### ISSUE TITLE
RFC: "Safe" monadic assertions for use with `mvcgen`

### ISSUE THREAD

**Issue by rish987** [leanprover/lean4#9580]
### Proposal
While experimenting with the new `Std.do` library, I have noticed that, in certain cases, proofs that would normally have to be inlined within a program can in fact be deferred to an extrinsic specification proof without changing the functionality of the code. For instance, consider the following example:
```lean
noncomputable def setZero : StateM (Array Nat) Unit := do
  let mut i := 0
  let len := (← get).size
  for _ in [0:len] do
    let ns ← get
    let h : i < ns.size := sorry -- need proof that `i < ns.size`
    modify fun _ => ns.set i 0 h
    i := i + 1
```
Here, the `Array.set` function requires an array access validity proof, which we provide via `h`. Proving `h`, however, is not possible here (without tacking on invariant properties to the mutated loop variable). To have a sorry-free implementation, one thing you can do is to use an extraneous `dite` guard conditions, which we know will always evaluate to `true`:
```lean
noncomputable def setZero : StateM (Array Nat) Unit := do
  let mut i := 0
  let len := (← get).size
  for _ in [0:len] do
    let ns ← get
    if h : i < ns.size then
      modify fun _ => ns.set i 0 h
      i := i + 1
```
Now, rather than having to show `h` in the program itself, we can instead show it in the correctness proof, where `mvcgen` creates a VC for the `else` case that we can show by contradiction:
```lean
theorem setZero_spec :
   ⦃⌜True⌝⦄
   setZero
   ⦃⇓ _ => ⌜1 < 2⌝⦄ := by
  unfold setZero
  mvcgen

  case inv =>
    exact ⇓ (i, sp) =>
      ⌜(#gns).size = len⌝ ∧
      ⌜i = sp.rpref.length⌝ ∧
      ⌜i ≤ (#gns).size⌝

  . mintro t
    rename_i h
    mvcgen
    mleave
    simp only [SPred.and_cons, SVal.curry_cons, SVal.curry_nil,
      SVal.uncurry_cons, SVal.uncurry_nil, SPred.and_nil] at h -- see #9363
    grind

  . mleave
    rename_i h
    simp only [SPred.and_cons, SVal.curry_cons, SVal.curry_nil,
      SVal.uncurry_cons, SVal.uncurry_nil, SPred.and_nil] at h
    rename_i _ _ h'
    false_or_by_contra
    apply h'

    -- FIXME `mvcgen` should leave us here
    rename_i hsp _ _
    have : (rpref.reverse ++ x :: suff).length = len := by
      rw [← hsp]
      simp
    rw [List.length_append, List.length_reverse, List.length_cons] at this
    omega

  . mleave
    rename_i h
    simp
    rfl
```
Using this strategy, we will sometimes also need to provide the `else` case:
```lean
def foo (ns : Array Nat) : StateM Unit Nat := do
  let ns' := ns ++ #[1, 2, 3]
  if h : ns'.size > ns.size then
    pure (ns'[ns.size]'h)
  else
    pure default -- never happens

theorem foo_spec (ns : Array Nat) :
   ⦃⌜True⌝⦄
   foo ns
   ⦃⇓ r => ⌜r = 1⌝⦄ := by
  mvcgen [foo]

  . mleave
    simp

  . mleave
    rename_i h
    false_or_by_contra
    apply h

    -- FIXME `mvcgen` should leave us here
    simp
```
Ideally, we would have automation to make this easier, so we don't have to explicitly write out any `if`/`else` branches. We would like our program to look something like this instead:
```lean
def foo : StateM Unit Nat := do
  let ns := #[1, 2, 3]
  pure $ ns[0]'?
```
Where the `?` signals to the elaborator to nest the rest of the code block in an dependent `if`/`else` block with a condition hypothesis `h`, which is substituted in for `?`.

However, if we were to do this, there's the question of what to put in the `else` branch. That's easy if the return type is inhabited, since we can just use `pure default` as above. If it isn't, however, we might want to have a special exception type, which we could throw in the `else` case when using a compatible monad:
```lean
structure AssertException where

abbrev AStateT := fun σ m => ExceptT AssertException (StateT σ m)
abbrev AStateM := fun σ => AStateT σ Id

structure SNat where
  n : Nat

-- This definition:
--
-- def foo (ns : Array Nat) : AStateM Unit SNat := do
--   let ns' := ns ++ #[1, 2, 3]
--   pure (.mk (ns'[ns.size]'?))
--
-- Elaborates to:
def foo (ns : Array Nat) : AStateM Unit SNat := do
  let ns' := ns ++ #[1, 2, 3]
  if h : ns'.size > ns.size then
    pure (.mk (ns'[ns.size]'h))
  else
    throw .mk

theorem foo_spec (ns : Array Nat) :
   ⦃⌜True⌝⦄
   foo ns
   ⦃⇓ r => ⌜r = .mk 1⌝⦄ := by
  mvcgen [foo]

  . mleave
    simp

  . mleave
    rename_i h
    false_or_by_contra
    apply h

    -- FIXME `mvcgen` should leave us here
    simp
```
Though perhaps that's not the only way about it.

The functionality being requested here is similar to what we already have with the `assert! [cond]` command. But rather than panicking when the assertion condition is violated, we branch off into a provably unreachable part of the code. Another similar piece of syntax sugar is `unless [cond] do ...`, which we could adapt in our case as `unless [cond] do pure default`/`unless [cond] do throw .mk`, but this doesn't quite get use there since `unless` doesn't allow you to bind a proof of the condition for you to use (`unless h : [cond] do throw .mk` is a syntax error). But `unless` seems to be the closest existing thing to what we want here.

### Community Feedback

Briefly discussed in DMs with @sgraf812

**Comment by sgraf812** [comment]
(I think `if h : ... then xs.set i v h` is equivalent to `xs.set! i v`.)

Yes, it would be great if all array bounds proofs could be done externally.

However, I'm not sure if this is something that should be solved by `Std.Do` only. We have the same situation with recursive loops/folds where some array bounds proof requires us to alter the accumulator in order to supply the proof. Often, we can get by with `Array.attach`, but that does not scale to combining multiple arrays.

I think the challenge is this. The context of the array bounds proof is
```
i✝ : Nat := 0
len : Nat := __do_lift✝.size
x✝¹ : Nat
r✝ : Nat
i : Nat := r✝
ns x✝ : Array Nat
⊢ i < ns.size
```
It is the context of the program at this position and the target is not provable from it.
I think this is bad! It is the program the user wants to write, but the system does not give the user enough "setup" to conduct the array bounds proof; in particular it lacks the pre conditions of the particular state the program is in.

So there are just two options for the user:

1. Complicate the *program*  in order to enrich the local context with the necessary induction hypothesis to conduct the proof. Following the principle of wanting to separate proofs from programs, this is undesirable.
2. Write the program using `ns.set! i v`, sacrificing performance. Then the array bound proof can be supplied in the functional correctness *theorem*, where the local context is enriched with the necessary induction hypothesis

I would prefer (2) and would want to get rid of the performance problems by offering `ns.unsafeSet! i v`. It is logically equivalent to `ns.set! i v` but omits the bounds-check like `ns.set` does. Alas, I can see that `xs.unsafeSet! i v` has the drawback that code generation loses the exact control dependency; it would be hard to know whether we may float `xs.unsafeSet! i v` out of some unrelated `if` branch. Furthermore we lose the safety guarantee unless we perform at least one simple functional correctness proof.

**Comment by rish987** [comment]
> (I think `if h : ... then xs.set i v h` is equivalent to `xs.set! i v`.)

Oh, right, but when it comes to the `Array.get` function it looks like `Array.get!` isn't the alternative we need, since it requires an `Inhabited` instance. The functionality I would like to have here is actually more general and not just limited to array access operations:
```lean
def pred : Nat → Option Nat
| .succ n => .some n
| .zero => none

def addPred (n : Nat) : StateM Unit Nat := do
  if n > 0 then
    let npred? := pred n
    if h : npred?.isSome then
      let npred := pred n |>.get h
      pure (n + npred)
    else
      pure 0 -- unreachable
  else
    pure 0

theorem addPred_spec : 
   ⦃⌜n > 0⌝⦄
   addPred n
   ⦃⇓ r => ⌜r > 0⌝⦄ := by
  unfold addPred
  mvcgen

  . mleave
    omega

  . mleave
    rename_i h _
    false_or_by_contra
    apply h

    -- FIXME mvcgen should leave us here
    rename_i hn _
    have := Nat.exists_eq_add_of_lt hn
    rcases this with ⟨k, rfl⟩
    simp [npred?]
    rfl
```
I'd like to have a general means to assert certain conditions in the code whose proofs are required by certain calls, effectively deferring the actual proofs of these conditions to the correctness proof.

There's an additional consideration here that just came to mind. If we have a separate spec for the same function, we end up having to repeat the contradiction proof in the `isTrue.isFalse` case:
```lean
theorem addPred_spec' : 
   ⦃⌜n > 1⌝⦄
   addPred n
   ⦃⇓ r => ⌜r > n⌝⦄ := by
  unfold addPred
  mvcgen

  rename_i h _
  . mleave
    have : (pred n).get h ≥ 1 := by
      cases n with
      | zero => omega
      | succ n' =>
        cases n' with
      | zero => omega
      | succ n'' =>
        simp [pred]
    omega

  . mleave
    rename_i h _
    false_or_by_contra
    apply h

    -- FIXME mvcgen should leave us here
    rename_i hn _
    have := Nat.exists_eq_add_of_lt hn
    rcases this with ⟨k, rfl⟩
    simp [npred?]
    rfl

  . omega
```
That's one drawback to this extrinsic approach. However, we could possibly get around this by writing a generic proof that only deals with the asserted properties:

```lean
theorem addPred_ok 
  ( isTrue_isTrue :
    (h1 : n > 0) → (h2 : (pred n).isSome = true) →
    P ⊢ₛ Q.fst (n + (pred n).get h2) )
  ( isFalse :
    (h1 : ¬ n > 0) →
    P ⊢ₛ Q.fst 0 )
   : 
   ⦃P⦄
   addPred n
   ⦃Q⦄ := by
  unfold addPred
  mvcgen

  . apply isTrue_isTrue
    omega

  . mleave
    rename_i h 
    false_or_by_contra
    apply h

    -- FIXME mvcgen should leave us here
    rename_i hn _ _
    have := Nat.exists_eq_add_of_lt hn
    rcases this with ⟨k, rfl⟩
    simp [npred?]
    rfl

  . apply isFalse
    omega
```
We can then use this spec to shorten our proofs:
```lean
theorem new_addPred_spec : 
   ⦃⌜n > 0⌝⦄
   addPred n
   ⦃⇓ r => ⌜r > 0⌝⦄ := by
  mvcgen [addPred_ok]

  . rename_i h
    simp at h
    mintro ∀s -- FIXME why doesn't `mleave` do this?
    mleave
    omega

theorem new_addPred_spec' : 
   ⦃⌜n > 1⌝⦄
   addPred n
   ⦃⇓ r => ⌜r > n⌝⦄ := by
  mvcgen [addPred_ok]

  . rename_i h
    simp at h
    mintro ∀s

    mleave
    have : (pred n).get h2 ≥ 1 := by
      cases n with
      | zero => omega
      | succ n' =>
        cases n' with
      | zero => omega
      | succ n'' =>
        simp [pred]
    omega

  . rename_i h
    simp at h
    mintro ∀s
    omega
```
The question here is how to autogenerate theorems like `addPred_ok`. Perhaps we could have some notation to attach an auxiliary proof of to a program, similar to what we already have for `decreasing_by`? That is, some `assertions_by` command that leaves us in the same proof state as `addPred_ok` after `mvcgen` (with the non-assertion VCs corresponding to the hypotheses `isTrue_isTrue` and `isFalse` already taken care of).

Anyways, I've gone off on a bit of a tangent here that is not wholly relevant to the original RFC. I'll probably open a separate issue specifically regarding this.
